* gnetlist -g spice-sdb -o test_active_inductor.net test_active_inductor.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
AC_INDUCTOR Ltest 0 ACTIVE_INDUCTOR
Vs Vss 0 0V
Vd Vdd 0 'SUPPLY'
.INCLUDE active_inductor.net
.options TEMP=25
.MODEL n1 NMOS
.MODEL p1 PMOS
.PARAM SUPPLY=3.3v
.GLOBAL Vdd Vss
Vtest Vtest 0 dc 1
+ac 1
R1 Vtest Ltest 50  
.end
